US03993660
A suspension of 0.363 g. (1.00 mmol.) of 2',5-dichloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone in 5.0 ml. of methylene chloride was cooled to -20° C. in a Dry Ice/acetone bath and treated with 0.206 ml. (0.150 g., 1.50 mmol.) of triethylamine, followed by dropwise addition of 0.106 ml. (1.3 mmol.) of methanesulfonyl chloride. (Most of the starting material dissolved during the addition of the methanesulfonyl chloride.) During 15 minutes the temperature was gradually raised to 0°. The reaction mixture was quenched on ice and extracted with methylene chloride. The organic extracts were treated with a saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate and concentrated in vacuo to yield an oil. The oil was dissolved in 5 ml. of freshly distilled tetrahydrofuran in a dry flask and treated first with 0.332 g. (2.00 mmol.) of potassium iodide, then ammonia (gas). After saturating the reaction mixture with ammonia, the mixture was warmed to room temperature (22°-24° C.) and stirred for 24 hours. The mixture was quenched in a saturated aqueous sodium hydroxide solution, extracted with chloroform, dried over anhydrous sodium sulfate and concentrated in vacuo to afford an oil. Crystallization from ethyl acetate and methanol/ethyl acetate yielded 25 mg. of a tan solid of melting point 210°-221° C. Recrystallization from ethyl acetate gave pure 8-chloro-1-methyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 223°-225° C.

reactant | 2',5-dichloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | 1.00 mmol | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1C)CO)=O | C17H13Cl2N3O2
reactant | triethylamine | 1.50 mmol, 0.150 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.3 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium iodide | 2.00 mmol | [I-].[K+]
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-chloro-1-methyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=C(C=CC=C3)Cl)C1 | C17H12Cl2N4
